US08012976B2
Ethyl 3-(4-fluorophenyl)-2-(1-methyl-1H-imidazol-2-yl)-4-oxo-1,2,3,4-tetrahydroquinoline-5-carboxylate
A mixture of compound 4-fluorobenzaldehyde (248 mg, 2 mmol) and (E)-4-((1-methyl-1H-imidazol-2-yl)methyleneamino)isobenzofuran-1(3H)-one (482 mg, 2 mmol) in ethyl propionate (10 mL) was cooled to 0° C. Then a solution of sodium ethoxide in ethanol (sodium (184 mg, 8 mmol) in ethanol (5 mL)) was added dropwise. After the addition, the mixture was stirred at room temperature for 0.5 hr. The mixture was quenched with water (20 mL) and solvent was removed in vacuum. The residue was dissolved in water and extracted with ethyl acetate three times, washed with water and brine, and then concentrated to give the crude product, which was purified by column chromatography to obtain a yellow solid (200 mg, yield 25%). LC-MS (ESI) m/z: 394 (M+1)+.

reactant | 4-fluorobenzaldehyde | 2 mmol, 248 mg | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | (E)-4-((1-methyl-1H-imidazol-2-yl)methyleneamino)isobenzofuran-1(3H)-one | 2 mmol, 482 mg | CN1C(=NC=C1)\C=N\C1=C2COC(C2=CC=C1)=O | C13H11N3O2
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | ethanol | 8 mmol, 5 mL, 184 mg | C(C)O | C2H6O
solvent | ethyl propionate | 10 mL | C(CC)(=O)OCC | C5H10O2
product | Ethyl 3-(4-fluorophenyl)-2-(1-methyl-1H-imidazol-2-yl)-4-oxo-1,2,3,4-tetrahydroquinoline-5-carboxylate | 200 mg, yield 25% | FC1=CC=C(C=C1)C1C(NC=2C=CC=C(C2C1=O)C(=O)OCC)C=1N(C=CN1)C | C22H20FN3O3
